US04920133
3-(4-(2-Quinolinylmethyloxy)benzyl)benzamide (0.03 mol) in pyridine (150 ml) with methane sulfonyl chloride (0.06 mol) is heated at 70° C. for several hours. The reaction mixture is poured into ice wter and extracted with ethyl acetate. The ethyl acetate extract is dried (magnesium sulfate) then applied to a silica gel column. The product is isolated be elution with the appropriate mixture of ethyl acetate and petroleum ether to obtain 3-(4-(2-quinolinylmethyloxy)benzyl)benzonitrile.

reactant | 3-(4-(2-Quinolinylmethyloxy)benzyl)benzamide | 0.03 mol | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(CC=2C=C(C(=O)N)C=CC2)C=C1 | C24H20N2O2
reactant | methane sulfonyl chloride | 0.06 mol | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | 3-(4-(2-quinolinylmethyloxy)benzyl)benzonitrile | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(CC=2C=C(C#N)C=CC2)C=C1 | C24H18N2O
